US07582626B2
d) cis-N-[3-(1-Ethyl-4-hydroxy-2-oxo-2,4a,5,6,7,7a-hexahydro-1H-[1]pyrindin-3-yl)-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-7-yl]-methanesulfonamide
A solution of the crude 2-{ethyl-[2-(7-methanesulfonylamino-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-3-yl)-acetyl]-amino}-cyclopentanecarboxylic acid ethyl ester in ethanol (20 mL) was treated with a 21% w/w solution of sodium ethoxide in ethanol (0.648 g) and stirred for 16 h at 60° C. Upon cooling, the reaction mixture was then quenched with 1.0 M aqueous hydrochloric acid solution (20 mL) and extracted with ethyl acetate (2×50 mL). The combined organic layers were washed with saturated aqueous sodium bicarbonate solution, dried over sodium sulfate, filtered, and dried in vacuo. The residue was purified by prep-HPLC [Column ODS-A 5μ 100 Å, 150×21.2 mm, 5 micron, 50%-100% in 13.5 min @ 22 mL/min flow rate, 0.05% trifluoroacetic acid in acetonitrile/0.05% trifluoroacetic acid in water] to afford the desired product, cis-N-[3-(1-ethyl-4-hydroxy-2-oxo-2,4a,5,6,7,7a-hexahydro-1H-[1]pyrindin-3-yl)-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-7-yl]-methanesulfonamide (54.3 mg, 0.120 mmol, 23.9% over two steps), as a white solid. 1H NMR (400 MHz, DMSO-d6) δ: 1.08-1.30 (3H, m), 1.48-1.70 (4H, m), 1.99-2.24 (3H, m), 3.05 (3H, s), 3.64 (1H, bs), 3.87-4.45 (2H, m), 7.49-7.60 (3H, m), 10.16 (1H, s). LC-MS (ESI) calcd for C18H22N4O6S2 454.10, found 455.2 [M+H+].

reactant | 2-{ethyl-[2-(7-methanesulfonylamino-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-3-yl)-acetyl]-amino}-cyclopentanecarboxylic acid ethyl ester | C(C)OC(=O)C1C(CCC1)N(C(CC1=NS(C2=C(N1)C=CC(=C2)NS(=O)(=O)C)(=O)=O)=O)CC | C20H28N4O7S2
reactant | sodium ethoxide | [O-]CC.[Na+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | ethanol | 0.648 g | C(C)O | C2H6O
product | cis-N-[3-(1-ethyl-4-hydroxy-2-oxo-2,4a,5,6,7,7a-hexahydro-1H-[1]pyrindin-3-yl)-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-7-yl]-methanesulfonamide | 0.120 mmol, 54.3 mg, 23.9% | C(C)N1C(C(=C([C@@H]2CCC[C@H]12)O)C1=NS(C2=C(N1)C=CC(=C2)NS(=O)(=O)C)(=O)=O)=O | C18H22N4O6S2
